US05543409
An aqueous solution (100 ml) containing 3.30 g of potassium carbonate dissolved in water was added to 100 ml of a suspension containing 3.50 g of 2-aminomethyl-5-[pyridazin3(2H)-on-6-yl]indane·hydrobromide suspended in ethyl acetate. Then, under ice cooling, 2.30 g of butyryl chloride dissolved in 30 ml of tetrahydrofuran was added to the mixture, and the resulting mixture was stirred for 3 hours. Crystals precipitated were collected by filtration, washed with water, dried and then recrystallized from methanol to obtain 2.75 g of 2-(butyrylamino)methyl-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | potassium carbonate | 3.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-aminomethyl-5-[pyridazin3(2H)-on-6-yl]indane·hydrobromide | 3.50 g | NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O.Br
reactant | butyryl chloride | 2.30 g | C(CCC)(=O)Cl | C4H7ClO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(butyrylamino)methyl-5-[pyridazin-3(2H)-on-6-yl]indane | 2.75 g | C(CCC)(=O)NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C18H21N3O2
